US05302720
A mixture of N-benzylpiperazine (8.8 g), methanesulphonyl chloride (4.3 ml), anhydrous potassium carbonate (20 g) in dry acetonitrile (100 ml) was stirred at ambient temperature for five hours to give N-benzyl-N'-methanesulphonylpiperazine (m.p. 115°-116° C.).

reactant | N-benzylpiperazine | 8.8 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | methanesulphonyl chloride | 4.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N-benzyl-N'-methanesulphonylpiperazine | C(C1=CC=CC=C1)N1CCN(CC1)S(=O)(=O)C | C12H18N2O2S
